US05763489
A solution of AD-mix-α (trade name, Aldrich) (9.2 g) in a mixture of t-butyl alcohol (30 ml) and water (30 ml) was stirred for 1 hour and then methanesulfonamide (0.62 g) and 2-ethoxycarbonyl-5-t-butyldiphenylsilyloxy-3,4-dihydronaphthalene (3.0 g) were added to the solution at room temperature. After being stirred for 20 hours at the same temperature, sodium sulfite (9.0 g) was added, and the mixture was stirred for 30 minutes. The mixture was partitioned between ethyl acetate and water. The organic layer was washed with 1N--HCl solution, sat. NaHCO3, and brine, dried over MgSO4, and evaporated in vacuo. The residue was purified by chromatography on silica gel to afford (1S,2R)-1,2-dihydroxy-2-ethoxycarbonyl-5-t-butyldiphenylsilyloxy-1,2,3,4-tetrahydronaphthalene (3.1 g).

reactant | AD-mix-α | 9.2 g | CC[C@@H]1CN2CC[C@@H]1C[C@@H]2[C@@H](C3=C4C=C(C=CC4=NC=C3)OC)OC5=NN=C(C6=CC=CC=C65)O[C@@H]([C@H]7C[C@@H]8CCN7C[C@@H]8CC)C9=C1C=C(C=CC1=NC=C9)OC | C48H54N6O4
reactant | methanesulfonamide | 0.62 g | CS(=O)(=O)N | CH5NO2S
reactant | 2-ethoxycarbonyl-5-t-butyldiphenylsilyloxy-3,4-dihydronaphthalene | 3.0 g | C(C)OC(=O)C1=CC2=CC=CC(=C2CC1)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C29H32O3Si
reactant | sodium sulfite | 9.0 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | water | 30 ml | O | H2O
solvent | t-butyl alcohol | 30 ml | C(C)(C)(C)O | C4H10O
product | (1S,2R)-1,2-dihydroxy-2-ethoxycarbonyl-5-t-butyldiphenylsilyloxy-1,2,3,4-tetrahydronaphthalene | 3.1 g | O[C@@H]1[C@](CCC2=C(C=CC=C12)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)(C(=O)OCC)O | C29H34O5Si
